US07393852B2
Preparation VIII—(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (1.030 g, 4.719 mmol) was added to a stirred RT solution of 6-bromo-1,2,3,4-tetrahydro-naphthalen-2-ylamine (0.970 g, 4.290 mmol) in CH2Cl2 (100 mL). TEA (0.897 mL, 6.435 mmol) was added to the reaction and the mixture was stirred at RT until HPLC analysis showed complete consumption of starting material. The reaction was diluted with CH2Cl2, washed with saturated aqueous NaHCO3, dried over MgSO4 and concentrated in vacuo to afford the crude material. The crude was purified by flash column chromatography to yield the title compound. MS (APCI pos) 269 (M-t-Bu).

reactant | Di-tert-butyl dicarbonate | 4.719 mmol, 1.030 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-bromo-1,2,3,4-tetrahydro-naphthalen-2-ylamine | 4.290 mmol, 0.970 g | BrC=1C=C2CCC(CC2=CC1)N | C10H12BrN
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC2=CC=C(C=C2CC1)Br)=O | C15H20BrNO2
